US07842688B2
c) 7-Hydroxymethyl-1-(3-methoxypropyl)-3,4-dihydro-1H-quinolin-2-one
Analogously to Example 2c, 1.28 g of 7-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one are reacted with 1.59 ml of 1-chloro-3-methoxypropane. The title compound is obtained as a slightly yellowish oil. Rf=0.24 (dichloromethane-methanol=95:5); Rt=2.71.

reactant | 7-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one | 1.28 g | OCC1=CC=C2CCC(NC2=C1)=O | C10H11NO2
reactant | 1-chloro-3-methoxypropane | 1.59 ml | ClCCCOC | C4H9ClO
product | 7-Hydroxymethyl-1-(3-methoxypropyl)-3,4-dihydro-1H-quinolin-2-one | OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C14H19NO3
